US07687627B2
(S)-N-{3-[4-(4-Fluoro-4-cyanomethylpiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
The title compound was prepared by stirring (S)-N-{3-[4-(4-cyanomethyl-4-hydroxypiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (2.45 mmol) with DAST (3.06 mmol) in dichloromethane (10 ml) at a temperature 0° C. for one hour and by purifying the compound by silica gel column chromatography in 47% yield.

reactant | (S)-N-{3-[4-(4-cyanomethyl-4-hydroxypiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 2.45 mmol | C(#N)CC1(CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)O | C19H23FN4O4
reactant | DAST | 3.06 mmol | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (S)-N-{3-[4-(4-Fluoro-4-cyanomethylpiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 47% yield | FC1(CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)CC#N | C19H22F2N4O3
